US07807659B2
Method D: [3S/R,4S/R,(2S)]-5-Fluoro-4-hydroxy-3-[2-piperidinecarboxamido]-pentanoic acid tert-butyl ester
A stirred solution of [3S/R,4S/R,(2S)]-5-fluoro-4-hydroxy-3-[1-(benzyloxycarbonyl)-2-piperidinecarboxamido]-pentanoic acid tert-butyl ester (7.37 g, 16.29 mmol) in ethyl acetate (150 ml) was treated with 10% Pd/C (830 mg). The reaction mixture was then thoroughly degassed and placed under a hydrogen balloon. The resulting mixture was stirred at room temperature for 3 hrs after which it was filtered through celite and concentrated to the sub-title compound as a colorless gum (5.17 g, 100%): 1H NMR (400 MHz, CDCl3) δ 1.16-2.00 (15H, m), 2.51-2.78 (3H, m), 2.99-3.09 (1H, m), 3.18-3.28 (1H, m), 3.93-4.56 (4H, m), 7.39-7.58 (1H, m); 19F (376 MHz, CDCl3) δ −229.34 (t), −229.42 (t), −229.87 (t), 230.02 (t).

reactant | 5-fluoro-4-hydroxy-3-[1-(benzyloxycarbonyl)-2-piperidinecarboxamido]-pentanoic acid tert-butyl ester | 16.29 mmol, 7.37 g | C(C)(C)(C)OC(CC(C(CF)O)NC(=O)C1N(CCCC1)C(=O)OCC1=CC=CC=C1)=O | C23H33FN2O6
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 830 mg | [Pd] | Pd
product | 5-Fluoro-4-hydroxy-3-[2-piperidinecarboxamido]-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(CF)O)NC(=O)C1NCCCC1)=O | C15H27FN2O4
